US04921867
2-Bromo-N,N-diethyl-4-pyridinecarboxamide
Ethyl chloroformate (1.07 g) was added dropwise to a solution of 2-bromo-4-pyridinecarboxylic acid (2 g) and triethylamine (1 g) at 0°. The mixture was stirred at room temperature for 1 h, diethylamine (3 ml) was added dropwise and the resulting suspension was stirred vigorously for 2 h. The precipitate was collected by filtration and washed with water (20 ml) to give the title compound as a white solid (1.55 g), m.p. 200°-203°.

reactant | Ethyl chloroformate | 1.07 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-bromo-4-pyridinecarboxylic acid | 2 g | BrC1=NC=CC(=C1)C(=O)O | C6H4BrNO2
reactant | diethylamine | 3 ml | C(C)NCC | C4H11N
solvent | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
product | 2-Bromo-N,N-diethyl-4-pyridinecarboxamide | 1.55 g | BrC1=NC=CC(=C1)C(=O)N(CC)CC | C10H13BrN2O
